US08877776B2
1.5 Preparation of 1-(4-Fluoro-phenylcarbamoyl)-cyclopropanecarbonyl chloride
Oxalyl chloride (1.0 kg) was added to a solution of 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid (2.0 kg) in a mixture of THF (11 kg) and N,N-dimethylformamide (DMF; 0.02 kg) at a rate such that the batch temperature did not exceed 30° C. This solution was used in the next step without further processing.

reactant | Oxalyl chloride | 1.0 kg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid | 2.0 kg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
solvent | THF | 11 kg | C1CCOC1 | C4H8O
solvent | N,N-dimethylformamide | 0.02 kg | CN(C=O)C | C3H7NO
product | 1-(4-Fluoro-phenylcarbamoyl)-cyclopropanecarbonyl chloride | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)Cl | C11H9ClFNO2
